US06562828B1
3-Amino-4-(cyclohexylcarbamoylmethylamino)benzonitrile
4-(Cyclohexylcarbamoylmethylamino)-3-nitrobenzonitrile (3.64 g) was hydrogenated using 7.5% palladium carbon (1.1 g) in tetrahydrofuran (100 ml) at atmospheric pressure over 40 min. After completion of the reaction, the reaction mixture was filtered through celite, and the solvent was evaporated and the residue was dried under reduced pressure to give the title compound (3.274 g).

reactant | 4-(Cyclohexylcarbamoylmethylamino)-3-nitrobenzonitrile | 3.64 g | C1(CCCCC1)NC(=O)CNC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C15H18N4O3
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | palladium carbon | 1.1 g | [C].[Pd]
product | 3-Amino-4-(cyclohexylcarbamoylmethylamino)benzonitrile | 3.274 g | NC=1C=C(C#N)C=CC1NCC(NC1CCCCC1)=O | C15H20N4O
